US07189851B2
A. 1-(2,4-difluorophenyl)-3-nitroacetone
To 120 ml of dichloromethane solution of (2,4-difluorophenyl)acetic acid (10 g, 58.1 mmol) at 0° C., 1,1′-carbonyldiimidazole (9.4 g, 58.1 mmol) was added slowly. The mixture was then stirred for 2.5 hours at room temperature. The solvent was removed. Then the solid residue was triturated with diethyl ether and dried. The white fluffy solid 1-[(2,4-difluorophenyl)acetyl]-1H-imidazole was used for the next step without further purification. In a separate flask, to the 100 ml of dimethyl sulfoxide solution of potassium tert-butoxide (7.2 g, 63.9 mmol) at 0° C., nitromethane (4.6 g, 75.5 mmol) was added. After stirring for 5 minutes, the 1-[(2,4-difluorophenyl)acetyl]-1H-imidazole made previously was added slowly. The mixture was left stirring overnight while the temperature was gradually warmed up to room temperature. The reaction mixture was poured into 250 ml water and then acidified with 2N HCl to pH=4. The aqueous was extracted with ethyl acetate. After washing with brine and drying with sodium sulfate, removal of the solvent afforded 9.4 g yellowish solid. 1H-NMR (400 MHz, CD3OD) δ 7.18 (m, 1H), 6.82 (m, 2H), 5.30 (s, 2H), 3.82 (s, 2H) ppm. ESI-MS m/z 214 (M−H)−.

reactant | (2,4-difluorophenyl)acetic acid | 58.1 mmol, 10 g | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | 1,1′-carbonyldiimidazole | 58.1 mmol, 9.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | potassium tert-butoxide | 63.9 mmol, 7.2 g | CC(C)([O-])C.[K+]
reactant | nitromethane | 75.5 mmol, 4.6 g | [N+](=O)([O-])C | CH3NO2
reactant | 1-[(2,4-difluorophenyl)acetyl]-1H-imidazole | FC1=C(C=CC(=C1)F)CC(=O)N1C=NC=C1 | C11H8F2N2O
reactant | HCl | 2N | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-(2,4-difluorophenyl)-3-nitroacetone | 9.4 g | FC1=C(C=CC(=C1)F)CC(=O)C[N+](=O)[O-] | C9H7F2NO3
